US05646265
N4-Benzoyl-5'-O-(dimethoxytrityl)-2'-O-nonylcytidine
N4-Benzoyl-2'-O-nonylcytidine (2.67 g, 0.0056 mol) was treated with dimethoxytrityl chloride (2.0 g, 1.1 eq) as per the procedure of Example 72 to give 4.2 g of pure product. Anal. Calcd. for C46H53N3O8.1/2H2O: C, 70.39; H, 6.93; N, 5.35. Found: C, 71.20; H, 6.88; N, 5.41.

reactant | N4-Benzoyl-2'-O-nonylcytidine | 0.0056 mol, 2.67 g | C(C1=CC=CC=C1)(=O)NC1=NC(N([C@H]2[C@H](OCCCCCCCCC)[C@H](O)[C@@H](CO)O2)C=C1)=O | C25H35N3O6
reactant | dimethoxytrityl chloride | 2.0 g, 1.1 eq | COC=1C(=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)Cl)C=CC1)OC | C21H19ClO2
product | N4-Benzoyl-5'-O-(dimethoxytrityl)-2'-O-nonylcytidine | 4.2 g | C(C1=CC=CC=C1)(=O)NC1=NC(N([C@H]2[C@H](OCCCCCCCCC)[C@H](O)[C@@H](COC(C3=C(C(=CC=C3)OC)OC)(C3=CC=CC=C3)C3=CC=CC=C3)O2)C=C1)=O | C46H53N3O8
